US09315521B2
6-methyl-2-[(quinoxalin-2-ylmethyl)sulfanyl]pyrimidin-4-ol (250 mg, 879 μmol) was stirred in methanol (25 mL) and a solution of 4 N HCl in dioxane (660 μL, 2.63 mmol) was added dropwise at 0° C. The mixture was stirred for 20 minutes at room temperature. The solvent was removed by evaporation, and the residue was triturated with diethyl ether, filtered, washed with ether, and dried in vacuo to afford 6-methyl-2-[(quinoxalin-2-ylmethyl)sulfanyl]pyrimidin-4-ol dihydrochloride (289 mg, 92% yield); 1H NMR (400 MHz, DMSO-d6): δ 2.20 (s, 3H), 4.74 (s, 2H), 6.10 (s, 1H), 7.82-7.89 (m, 2H), 8.03-8.11 (m, 2H), 9.12 (s, 1H); LRMS (ES+) m/z 285 (100%, M+1).

reactant | 6-methyl-2-[(quinoxalin-2-ylmethyl)sulfanyl]pyrimidin-4-ol | 879 μmol, 250 mg | CC1=CC(=NC(=N1)SCC1=NC2=CC=CC=C2N=C1)O | C14H12N4OS
reactant | HCl | 4 N | Cl | ClH
reactant | dioxane | 2.63 mmol, 660 μL | O1CCOCC1 | C4H8O2
solvent | methanol | 25 mL | CO | CH4O
product | 6-methyl-2-[(quinoxalin-2-ylmethyl)sulfanyl]pyrimidin-4-ol dihydrochloride | 289 mg, 92% yield | Cl.Cl.CC1=CC(=NC(=N1)SCC1=NC2=CC=CC=C2N=C1)O | InChI=1S/C14H12N4OS.2ClH/c1-9-6-13(19)18-14(16-9)20-8-10-7-15-11-4-2-3-5-12(11)17-10;;/h2-7H,8H2,1H3,(H,16,18,19);2*1H
